Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
respiratory distress
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with h/o HTN who presents with worsening respiratory 
difficulty x2d. Dyspnea began around 3pm the day prior to 
presentation at the ED and worsened this morning, prompting her 
to call EMS. Patient reports she 'could not catch her breath' 
and was using albuterol inhaler with minimal improvement.  No 
fever or chills, but did endorse URI symptoms (congestion, post 
nasal drip) and abdominal pain the last few days, which have 
since resolved, as well as seasonal allergies. 
The patient recently had a respiratory illness with wheezing a 
few weeks ago and was seen in PCP ___ ___. She was given 
an albuterol inhaler and prednisone 20 BID x5d for presumed 
asthma exacerbation triggered by seasonal allergies. Per 
patient, she had never had an asthma exacerbation before this 
episode. She has a remote history of GERD and used to take PPIs 
but has not required any in years.  
 
Past Medical History:
HYPERTENSION  
GENITAL HERPES
ANXIETY  
DEPRESSION  
PPD POSITIVE- treated for 6 months in ___  
SLEEP APNEA  
LOWER RIGHT QUADRANT MASS/LIPOMA  

 
Social History:
___
Family History:
Son has h/o asthma  
Father- deceased, esophageal cancer  
sister- sarcoidosis 
 
Physical ___:
========================
ADMISSION PHYSICAL EXAM:
========================
VITALS: T 98.1, 169/84, 67, 16, 93% on 2L 
GENERAL: Alert and interactive. NAD. Sitting up in bed. 
HEENT: NCAT. PERRL, EOMI. Sclera anicteric and without 
injection.
MMM.
NECK: No cervical lymphadenopathy. 
CARDIAC: RRR. Normal S1 and S2. No murmurs/rubs/gallops.
LUNGS: Breathing comfortably on 2L NC with no increased work of
breathing. No accessory muscle use or tripoding. Minimal
expiratory wheezing noted throughout lung fields bilaterally.
ABDOMEN: NABS, soft, non distended, non-tender to deep palpation
in all four quadrants. No organomegaly.
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+
bilaterally.
SKIN: Warm. Cap refill <2s. No rash.
NEUROLOGIC: CN2-12 intact. ___ strength throughout. Normal
sensation. No focal neurologic deficits noted. AAOx3. 

========================
DISCHARGE PHYSICAL EXAM:
========================
98.1 PO 134 / 79 87 18 95 Ra 
GENERAL: Alert and interactive. NAD. Sitting up in bed. 
HEENT: NCAT. PERRL, EOMI. Sclera anicteric and without 
injection.
MMM.
NECK: No cervical lymphadenopathy. 
CARDIAC: RRR. Normal S1 and S2. No murmurs/rubs/gallops.
LUNGS: Breathing comfortably on 2L NC with no increased work of
breathing. No accessory muscle use or tripoding. Minimal
expiratory wheezing noted throughout all lung fields 
bilaterally.
ABDOMEN: NABS, soft, non distended, non-tender to deep palpation
in all four quadrants. No organomegaly.
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+
bilaterally.
SKIN: Warm. Cap refill <2s. No rash.
NEUROLOGIC: CN2-12 intact. ___ strength throughout. Normal
sensation. No focal neurologic deficits noted. AAOx3. 
 
Pertinent Results:
ADMISSION LABS:
======================

___ 07:40AM BLOOD WBC-9.3 RBC-4.35 Hgb-12.9 Hct-39.9 MCV-92 
MCH-29.7 MCHC-32.3 RDW-15.0 RDWSD-50.6* Plt ___
___ 07:40AM BLOOD Neuts-76.7* Lymphs-13.6* Monos-6.6 
Eos-2.4 Baso-0.3 Im ___ AbsNeut-7.12* AbsLymp-1.26 
AbsMono-0.61 AbsEos-0.22 AbsBaso-0.03
___ 07:40AM BLOOD Glucose-200* UreaN-8 Creat-0.8 Na-137 
K-3.9 Cl-97 HCO3-20* AnGap-20*
___ 07:40AM BLOOD proBNP-193*
___ 07:40AM BLOOD proBNP-193*
___ 07:50AM BLOOD ___ pO2-37* pCO2-66* pH-7.21* 
calTCO2-28 Base XS--3

___ CTA CHEST WITH CONTRAST  
FINDINGS:  
HEART AND VASCULATURE: Pulmonary vasculature is well opacified 
to the 
subsegmental level without filling defect to indicate a 
pulmonary embolus. 
Motion artifact limits evaluation of the segmental and 
subsegmental branches in the left lower lobe, however no 
evidence of filling defects are seen within this limitation.  
The thoracic aorta is normal in caliber without evidence of 
dissection or intramural hematoma..  No pericardial effusion is 
seen.   
AXILLA, HILA, AND MEDIASTINUM: No axillary, mediastinal, or 
hilar 
lymphadenopathy is present.  No mediastinal mass. 
PLEURAL SPACES: No pleural effusion or pneumothorax. 
LUNGS/AIRWAYS: Lungs are clear without masses or areas of 
parenchymal 
opacification.  The airways are patent to the level of the 
segmental bronchi bilaterally.  Mild diffuse bronchial wall 
thickening is likely compatible with small airway inflammation. 
BASE OF NECK: Visualized portions of the base of the neck show 
no abnormality. 
ABDOMEN:  Included portion of the upper abdomen is unremarkable. 

BONES: No suspicious osseous abnormality is seen.? There is no 
acute fracture. 
  
IMPRESSION: 
1. Respiratory motion artifact limits assessment of the 
segmental and 
subsegmental pulmonary arterial branches in the left lower lobe 
in particular. No evidence of pulmonary embolism seen elsewhere. 
 No aortic dissection seen. 
2. Mild diffuse bronchial wall thickening, likely compatible 
with small airway inflammation. 

DISCHARGE LABS:
====================
___ 06:01AM BLOOD WBC-12.0* RBC-4.53 Hgb-13.5 Hct-40.8 
MCV-90 MCH-29.8 MCHC-33.1 RDW-15.5 RDWSD-50.4* Plt ___
___ 06:01AM BLOOD Plt ___
___ 06:01AM BLOOD Glucose-93 UreaN-20 Creat-1.0 Na-140 
K-3.9 Cl-99 HCO3-23 AnGap-18
___ 07:40AM BLOOD cTropnT-<0.01
___ 06:01AM BLOOD Mg-2.___ with h/o HTN who presented to ED in respiratory distress, 
c/f acute asthma exacerbation iso possible seasonal 
allergies/viral URI. Patient initially with increased WOB, 
dyspnea requiring BiPAP, but able to be weaned to 2L NC after 
receiving duonebs, IV steroids, IV magnesium in ED. Of note her 
initial gas showed respiratory acidosis and hypercarbia. She 
also had a CTA without e/o PE (though the study was limited) On 
admission to the medicine service she had improved but continued 
to have dyspnea, mild wheezing, and mildly reduced air movement 
on exam. She was treated with nebulizers and started on a 
prednisone taper. She will be discharged with albuterol 
nebulizer and inhaler, advair, and allegra. 

=============
ACUTE ISSUES:
=============
#Acute asthma/COPD exacerbation 
Patient does not have a history of asthma outside of presumed 
asthma exacerbation in ___, for which she was treated with 
albuterol and 5 days of pred 20 BID. FHx negative for emphysema. 
ABG on presentation was notable for significant CO2 retaining. 
CXR negative for acute cardiopulmonary process and CTA negative 
for PE on limited view, but showing likely small airway 
inflammation. No leukocytosis or fever on admission concerning 
for infectious trigger, but patient does report viral URI 
symptoms over past few days as well as seasonal allergies. Of 
note patient was a former tobacco smoker and currently smokes 
marijuana. Likely etiology of respiratory distress is acute 
asthma exacerbation in setting of seasonal allergies/viral URI, 
but of note would not exclude COPD in this patient with 
significant smoking history. Patient on duonebs q6h with 
albuterol nebs q2h prn. She was treated with nebulizers and 
started on a prednisone taper. She will follow up with 
outpatient pulmonary on discharge. She was discharged on 
___ given severity of exacerbation as well as a prednisone 
taper, daily fexofenadine, albuterol inhaler and nebulizer. 

=============== 
CHRONIC ISSUES:
===============
#Hypertension: continued on home triamterene/hctz 37.5/25 qd
#Anxiety/depression: controlled not on medications
#Sleep apnea: not on CPAP at home

===================
TRANSITIONAL ISSUES:
===================
[ ] Asthma exacerbation: started on advair, albuterol nebulizer, 
and prednisone taper (40 mg ___, 20 mg ___, 10 mg 
___
[ ] follow up with pulmonary ___ patient will schedule 
for this week
[ ] follow up with allergist ___ patient will 
schedule for this week

___ medications:
 - fenofexadine daily
 - Advair twice a day
 - prednisone taper upon discharge
 - albuterol nebulizer

# CODE: Full, confirmed 
# CONTACT: ___ (mother) ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Triamterene-HCTZ (37.5/25) 1 CAP PO DAILY 

 
Discharge Medications:
1.  Fexofenadine 60 mg PO BID  
2.  Fluticasone-Salmeterol Diskus (100/50) 1 INH IH BID  
3.  PredniSONE 40 mg PO DAILY Duration: 2 Doses 
Start: Tomorrow - ___, First Dose: First Routine 
Administration Time 
This is dose # 1 of 3 tapered doses
RX *prednisone 10 mg 1 tablet(s) by mouth once a day Disp #*14 
Tablet Refills:*0 
4.  PredniSONE 20 mg PO DAILY Duration: 2 Doses 
Start: After 40 mg DAILY tapered dose 
This is dose # 2 of 3 tapered doses 
5.  PredniSONE 10 mg PO DAILY Duration: 2 Doses 
Start: After 20 mg DAILY tapered dose 
This is dose # 3 of 3 tapered doses 
6.  Triamterene-HCTZ (37.5/25) 1 CAP PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Asthma exacerbation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,  

It was a pleasure taking part in your care here at ___!  

Why was I admitted to the hospital?  
- You were admitted for shortness of breath
- This was probably due to an asthma exacerbation

What was done for me while I was in the hospital?  
- You were given steroids to calm the inflammation in your lungs 
and medicines to help you breath.
- You improved considerably and were ready to leave the hospital

What should I do when I leave the hospital?  
- Take all of your medications
- Follow up with your doctors ___ below)

Sincerely,  
Your ___ Care Team  

 
Followup Instructions:
___